### PR TITLE
lra/nra/psatz without Stdlib

### PR DESCRIPTION
**Pull request by proux01**
This enables incorporating the lra/nra/psatz tactics in algebra without requiring Stdlib.

N.B.: infotheo is red here on 9.0 and 9.1, this is fixed by https://github.com/math-comp/math-comp/pull/1456

#### TODO

- [x] frontend (I reused the frontend from algebra-tactics)
- [x] ~drop support for Coq 8.20, so that this can be merged (i.e., depends on https://github.com/math-comp/math-comp/pull/1451 )~ (made it work with 8.20)
- [x] added changelog entries with `doc/changelog/make-entry.sh`
- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

#### Future work

* improve `Elpi derive.param2` to simplify the refinement part of `lra.v` or rather use Trocq
* could it be made to work for `numDomainType` and `numFieldType` rather than just `realDomainType` and `realFieldType`?
* `lia` tactic

#### Overlays (to be merged before the current PR)

* [x] https://github.com/math-comp/mczify/pull/62
* [x] https://github.com/math-comp/algebra-tactics/pull/119
* [x] https://github.com/rocq-community/apery/pull/36

### CODE REVIEW

File: algebra/lra.v [hunk 1]
```diff
@@ -0,0 +1,2445 @@
...
+
+Elpi derive.param2 fst.  (* TODO: another Datatypes thing that should probably not be here *)
+Elpi derive.param2 predn.  (* TODO: same *)
+Elpi derive.param2 Nat.add.
+
+Elpi derive.param2 ListDef.nth.  (* TODO: not sure were these should be *)
+Elpi derive.param2 ListDef.map.
+Elpi derive.param2 ListDef.rev_append.
+Elpi derive.param2 ListDef.fold_left.
+Elpi derive.param2 ListDef.fold_right.
```
Comment (proux01) [inline algebra/lra.v]: @CohenCyril it appears the "orphaned derivation" issue you mentionned this morning has quite a few instances here.
Not sure what to do, maybe we should keep it as it is considering it's inside this `Internals` module that isn't meant to ever be imported nor reused?

File: algebra/lra.elpi [hunk 2]
```diff
@@ -0,0 +1,1338 @@
...
+%   context to the reflexive proof,
+% - [OutM] the reified goal as a [BFormula RFormula isProp],
+% - [Out] the reified goal as a [BFormula (Formula Q) isProp], and
+% - [VM'] a variable map, giving the interpretation to variables in [Out]
+%   it is of type [VarMap.t C] where [C] is the carrier for the detected
+%   [realFieldType] or [realDomainType].
+solve (goal Ctx _ Type _ [str TacW, str TacF, str TacR, N] as G) GS :- std.do! [
+  exfalso_if_not_prop Type Type' Efalso,
+  rfstr Ctx Type' C Env,
+  Env => quote.goal C Ctx Type' Type'' NS OutM Out VM,
```
Comment (proux01) [inline algebra/lra.elpi]: @gares we have this warning here, not sure what it means and what to do with it:
```
File "/home/pgroux/git/mathcomp/algebra/lra.elpi", line 1323, characters 2-5:
Warning:
File "/home/pgroux/git/mathcomp/algebra/lra.elpi", line 1323, characters 2-5
ignoring flexible clause: Env [elpi.flex-clause,elpi.typecheck,elpi,default]
```

File: algebra/lra.v [hunk 3]
```diff
@@ -0,0 +1,2445 @@
+(* Distributed under the terms of CeCILL-B.                                  *)
+From elpi Require Import derive.std param2.
```
Comment (proux01) [inline algebra/lra.v:2]: Incidentally, the derivation of `bool` in there imports an `is_true` constant which is not exactly the `fun x => x = true` one would expect.

File: algebra/lra.v [hunk 4]
```diff
@@ -0,0 +1,2446 @@
...
+Proof.
+by rewrite /env_nth nth_drop Pos_to_natD -!subn1 addnBA 1?addnC ?Pos_to_nat_gt0.
+Qed.
+
+End Env.
+
+Section Peval.
+Variable C : pzRingType.
+Variable R : comPzRingType.
+Variable R_of_C : {rmorphism C -> R}.
```
Comment (proux01) [inline algebra/lra.v:60]: @pi8027 with the material below, I expect it to be rather easy to also integrate `ring` and `field` from algebra-tactics.

File: algebra/all_algebra.v [hunk 5]
```diff
@@ -13,6 +13,7 @@ From mathcomp Require Export qpoly.
 From mathcomp Require Export ssrint.
 From mathcomp Require Export archimedean.
 From mathcomp Require Export rat.
+From mathcomp Require Export lra.
```
Comment (proux01) [inline algebra/all_algebra.v:16]: The choice to export lra here seems obvious to me.
However, I chose to not have binnums.v here, considering it an "internal" file. This is arguable.

File: boot/ssrnat.v [hunk 6]
```diff
@@ -1413,6 +1413,8 @@ Lemma doubleS n : n.+1.*2 = n.*2.+2. Proof. by []. Qed.
 
 Lemma double_pred n : n.-1.*2 = n.*2.-2. Proof. by case: n. Qed.
 
+Lemma pred_doubleS n : n.+1.*2.-1 = n.*2.+1. Proof. by []. Qed.
```
Comment (CohenCyril) [inline boot/ssrnat.v]:
```suggestion
Lemma predn_doubleS n : n.+1.*2.-1 = n.*2.+1. Proof. by []. Qed.
```

File: algebra/lra.elpi [hunk 7]
```diff
@@ -0,0 +1,1338 @@
...
+  register-instance Scope DbName
+    {{:gref GRing.Zmodule.sort }} {{:gref int }} canonical-int-zmodule,
+  register-instance Scope DbName
+    {{:gref GRing.PzSemiRing.sort }} {{:gref int }} canonical-int-semiring,
+  register-instance Scope DbName
+    {{:gref GRing.PzRing.sort }} {{:gref int }} canonical-int-ring,
+  register-instance Scope DbName
+    {{:gref GRing.ComPzRing.sort }} {{:gref int }} canonical-int-comring,
+  register-instance Scope DbName
+    {{:gref GRing.UnitRing.sort }} {{:gref int }} canonical-int-unitring ].
```
Comment (CohenCyril) [inline algebra/lra.elpi:105]: Registration should be done through the Rocq `Register` vernacular command rather than using (implicitly) elpi's locate. Indeed `lra.elpi` can be accumulated at arbitrary positions and one cannot enforce from an elpi file what will be the local context when accumulating. On the other hand, using `Register` in a .v file provides full control.
See
https://github.com/math-comp/hierarchy-builder/blob/ba89a15cc1ae5eb1663e718fa3e4127baca961ce/HB/structures.v#L19
and
https://github.com/math-comp/hierarchy-builder/blob/ba89a15cc1ae5eb1663e718fa3e4127baca961ce/HB/common/phant-abbreviation.elpi#L76
for example.

File: algebra/lra.elpi [hunk 8]
```diff
@@ -0,0 +1,1338 @@
...
+
+pred coercion-init i:scope, i:id.
+coercion-init Scope DbName :- std.do! [
+  coq.typecheck {{ @Order.le }} (prod _ _ DOrd) ok,
```
Comment (CohenCyril) [inline algebra/lra.elpi]: This  `coq.typecheck X Y ok` and all subsequent ones should ideally be replaced by `std.assert-ok! (coq.typecheck X Y) "custom error message for debugging purposes`.

File: algebra/lra.elpi
Comment (CohenCyril) [inline algebra/lra.elpi:1]: What is the link with https://github.com/math-comp/algebra-tactics/blob/master/theories/lra.elpi does it do the same thing? If not what's the difference?

**Review by CohenCyril — COMMENTED** [review]
Could you detail the larger plan around this PR, and in particular
- integration schedule of stuff in future_Corelib (and may we really duplicate code with a different licence here?)
- how this articulates with algebra-tactics: it looks like it subsumes stuff from algebra-tactics but not all. (is it only ring and field are missing?) Did you take a different approach or is it the same? Did you reproduce algebra-tactics bench?
- what are the future plans? E.g. using SDP solvers? generalizing reification (Kazuhiko and I already have plans about this one)? 
- generally speaking I think it is great to have access to decision procedures in mathcomp already, this will greatly improve code. Do you plan to refactor a few proofs as an example of usage?

**Comment by proux01** [comment]
>     * integration schedule of stuff in future_Corelib (and may we really duplicate code with a different licence here?)

That's temporary, I already have an Stdlib branch https://github.com/proux01/stdlib/commits/micromega-core/ with the same factorisation and a rocq-core branch https://github.com/proux01/rocq/commits/micromega-core/ with that code. Hopefully this can land in 9.2 and once we require 9.2 here, we can remove the duplicated code (same in Stdlib).

>     * how this articulates with algebra-tactics: it looks like it subsumes stuff from algebra-tactics but not all. (is it only ring and field are missing?) Did you take a different approach or is it the same? Did you reproduce algebra-tactics bench?

Apart from the soundness proof that algebra-tactics takes from Stdlib and that I redo here in mathcomp (the first half of lra.v) it's really just the lra.v and lra.elpi files from algebra-tactics. The only noticeable difference is that algebra-tactics is built on top of MC and Stdlib so supports both libraries whereas obviously here we only support MC. About ring and field, I didn't investigate but I guess it would be rather straightforward to also move them here (in a further PR).

>     * what are the future plans?

Detailing what is in the topmost, I can see:
* probably porting the refinement part to Trocq once we can reasonnably depend from it here
* could it be made to work for numDomainType and numFieldType rather than just realDomainType and realFieldType?
  Here @fajb has plans to replace the adhoc conversion to cnf by an SMT based approach (a bit like in itauto), that would maybe ease that.
* lia tactic

> E.g. using SDP solvers?

Already the case through `psatz`. If you think about something like [ValidSDP](https://github.com/validsdp/validsdp), not in the near future, and anyway likely not here, since it involves floating-point numbers.

> generalizing reification (Kazuhiko and I already have plans about this one)?

No plans but I guess there is indeed room for it.

>     * Do you plan to refactor a few proofs as an example of usage?

No plans, but I agree that could be wort a try.

File: algebra/lra.elpi (hunk 7 above)
Comment (proux01) [reply algebra/lra.elpi:105]: That was already the case in algebra-tactics, thanks for pointing it, I'll have a look.

File: algebra/lra.elpi
Comment (proux01) [reply algebra/lra.elpi:1]: Same file, only removed the Stdlib specific things about N and Z.

File: algebra/lra.v (hunk 4 above)
Comment (pi8027) [reply algebra/lra.v:60]: I'm not interested in integrating the `ring` and `field` tactics to MC at the moment. I plan to work on their reimplementation, and I need control over them to do so.

Comment (proux01) [reply algebra/lra.v:60]: Thanks for the information. I'll probably do it myself in a further PR then.

File: algebra/lra.v (hunk 1 above)
Comment (CohenCyril) [reply algebra/lra.v]: I think these should be contributed to Elpi param2 plugin.

File: algebra/lra.v [hunk 9]
```diff
@@ -2435,6 +2435,7 @@ pred coercion o:string o:term.
 
 Elpi Tactic lra.
 Elpi Accumulate Db canonicals.db.
+#[warning="-elpi.flex-clause"]
```
Comment (CohenCyril) [inline algebra/lra.v]: Apparently @gares also [disabled it in HB](https://github.com/math-comp/hierarchy-builder/commit/d8d51ca46c9e6a6e4ae12ed1de3031a80ab38ed4), but I before doing it blindly, I would like the explanation, and add it as a comment.

Comment (proux01) [reply algebra/lra.v]: The thing that puzzle me is that the warning tells the clause is ignored but then it works whereas if the clause were actually ignored, there is no way it could work

File: algebra/lra.elpi
Comment (proux01) [reply algebra/lra.elpi:1]: There are also some code simplifications, most notably the removing of a duplication (while keeping lra.v and lra.elpi closely linked) that was one of the cause of the painful algebra-tactics breakage we experienced a few months ago.

File: algebra/all_algebra.v (hunk 5 above)
Comment (proux01) [reply algebra/all_algebra.v:16]: Well, in fact we'll have to wait until we require Rocq > 9.2 with the new Corelib. Until then, this is incompatible with algebra-tactics (in practice it breaks their user in the CI: ssprove and apery).

File: algebra/lra.elpi (hunk 7 above)
Comment (proux01) [reply algebra/lra.elpi:105]: @CohenCyril In fact, I'm not sure I get the point here: this register* code is called only in the `Elpi Query` at the end of `lra.v` so it seems to me that we master pretty well the context in which it is executed?

File: algebra/all_algebra.v (hunk 5 above)
Comment (proux01) [reply algebra/all_algebra.v:16]: Managed to get it work (with minor overlays), except on 8.20 where it's disactivated.

Comment (proux01) [reply algebra/all_algebra.v:16]: It's all detailled in the changelog entry

File: algebra/lra.v (hunk 4 above)
Comment (proux01) [reply algebra/lra.v:60]: Here it is: https://github.com/math-comp/math-comp/pull/1456

File: algebra/lra.v (hunk 9 above)
Comment (gares) [reply algebra/lra.v]: The .message is misleading. It means the static checker ignores that clause, not that the clause is not used at runtime.

You can use `=!=>` to silence the warning for good, this operator ensures all loaded rules have a tail cut, either because they have it or because it is added at runtime.

Comment (proux01) [reply algebra/lra.v]: Thanks!

Comment (proux01) [reply algebra/lra.v]: Unfortunately, this is elpi 3 only so I guess we'll have to live with the warning disactivated until we require elpi >= 3.
